US06831177B1
A Process for the Preparation of 1-trityl-1,2,4-triazole-3-carboxylic acid ethyl ester
In 60 ml of DMF was dissolved 7.62 g (54 mmol) of 1H-1,2,4-triazole-3-carboxylic acid ethyl ester. To the solution were added at room temperature 14 g (108 mmol) of N,N-diisopropylethylamine and 15.8 g (56.7 mmol) of tritylchloride. The mixture was stirred for 2 hours. 300 ml of water and 300 ml of ethylacetate were added thereto. The crystal was filtered, dissolved in 150 ml of chloroform, washed with water and dried. The solvent was removed. The residue was crystallized from ether to give 8.91 g of the titled compound. The ethylacetate layer was washed with water, dried and evaporated. The residue was crystallized from ether to give 4.73 g of the titled compound. 13.64 g of 1-trityl-1,2,4-triazole-3-carboxylic acid ethyl ester was totally obtained. Yield: 66%.

reactant | 1H-1,2,4-triazole-3-carboxylic acid ethyl ester | 54 mmol, 7.62 g | C(C)OC(=O)C1=NNC=N1 | C5H7N3O2
reactant | N,N-diisopropylethylamine | 108 mmol, 14 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | tritylchloride | 56.7 mmol, 15.8 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | water | 300 ml | O | H2O
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
solvent | ethylacetate | 300 ml | C(C)OC(C)=O | C4H8O2
product | 1-trityl-1,2,4-triazole-3-carboxylic acid ethyl ester | 8.91 g | C(C)OC(=O)C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H21N3O2
